US08440830B2
6-tert-butyl 2-ethyl 1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate
To a solution of compound ethyl 4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (1.0 eq) in DCM was added triethylamine (1.5 eq) at 0° C. followed by (boc)2O and stirred for two hrs. Reaction mixture was then quenched with water and extracted with dichloromethane, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired compound 6-tert-butyl 2-ethyl 1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate.

reactant | ethyl 4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 1.0 eq | N1C(=CC2=C1CNCC2)C(=O)OCC | C10H14N2O2
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | (boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-tert-butyl 2-ethyl 1,4,5,7-tetrahydro-6H-pyrrolo[2,3-c]pyridine-2,6-dicarboxylate | N1C(=CC2=C1CN(CC2)C(=O)OC(C)(C)C)C(=O)OCC | C15H22N2O4
